US07098226B2
1-[2-(1-Adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]hexahydro-2,4-pyrimidinedione hydrochloride (Compound No. 6-1)
A 4 N solution of hydrogen chloride in 1,4-dioxane (2.5 ml) was added to 1-[2-(1-adamantyl)ethyl]-1-[2-(t-butoxycarbonyl)ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-69) (0.23 g, 0.49 mmol), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, a 1 N aqueous sodium hydroxide solution (20 ml) and ethyl acetate (30 ml) were added to the residue, and layers were separated. The ethyl acetate layer was washed with water (20 ml) and a saturated aqueous sodium chloride solution (20 ml) successively and dried over anhydrous magnesium sulfate. The ethyl acetate layer was concentrated under reduced pressure, and the resulting oily matter was dissolved in diethyl ether (20 ml). A 4 N solution of hydrogen chloride in ethyl acetate (0.50 ml, 2.00 mol) was added thereto under ice-cooling, the mixture was concentrated under reduced pressure, and the precipitated solid was filtered off with ethyl acetate to give 0.17 g (79%) of the titled compound.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[2-(1-adamantyl)ethyl]-1-[2-(t-butoxycarbonyl)ethyl]-3-[3-(4-pyridyl)propyl]urea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCC(=O)OC(C)(C)C | C28H43N3O3
reactant | ethyl acetate | 2.00 mol, 0.50 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(1-Adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]hexahydro-2,4-pyrimidinedione hydrochloride | 0.17 g, 79% | Cl.C12(CC3CC(CC(C1)C3)C2)CCN2C(N(C(CC2)=O)CCCC2=CC=NC=C2)=O | InChI=1S/C24H33N3O2.ClH/c28-22-5-10-26(23(29)27(22)9-1-2-18-3-7-25-8-4-18)11-6-24-15-19-12-20(16-24)14-21(13-19)17-24;/h3-4,7-8,19-21H,1-2,5-6,9-17H2;1H
